US05571813
Preparation of N-(2'-Cyanobiphenyl-4-yl)methyl-N-methyl amine
62.1 g (228 mmol) 4-bromomethyl-2'-cyanobiphenyl (prepared according to D. J. Carini et al., J. Med. Chem. 1992, 34, 2525) were dissolved in 3 l THF. After addition of 1.5 l of a 40% aqueous solution of methylamine the mixture was stirred over night at room temperature, and the THF distilled off in vacuo. The remaining aqueous layer was extracted with ethyl acetate, the extract dried by stirring over night with 0.4 nm mole sieve, and evaporated in vacuo. The title compound was obtained as a viscous oil, which was pure enough according to its 1H-NMR spectrum for further conversions,

reactant | 4-bromomethyl-2'-cyanobiphenyl | 228 mmol, 62.1 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
reactant | methylamine | CN | CH5N
solvent | THF | 3 l | C1CCOC1 | C4H8O
product | N-(2'-Cyanobiphenyl-4-yl)methyl-N-methyl amine | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC | C15H14N2
